US07846956B2
0.71 g of 3-t-butyl-5-hydroxymethyl-1,2,4-thiadiazole was dissolved in 20 ml of dichloromethane, and 1.4 ml of thionyl chloride was added. The mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure to obtain 0.76 g of 3-t-butyl-5-(chloromethyl)-1,2,4-thiadiazole hydrochloride.

reactant | 3-t-butyl-5-hydroxymethyl-1,2,4-thiadiazole | 0.71 g | C(C)(C)(C)C1=NSC(=N1)CO | C7H12N2OS
reactant | thionyl chloride | 1.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-t-butyl-5-(chloromethyl)-1,2,4-thiadiazole hydrochloride | 0.76 g | Cl.C(C)(C)(C)C1=NSC(=N1)CCl | InChI=1S/C7H11ClN2S.ClH/c1-7(2,3)6-9-5(4-8)11-10-6;/h4H2,1-3H3;1H
